US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-2-chlorobenzene (953 mg, 5 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (1,078 mg, 10 mmol) and the resultant product was crystallized from ethyl acetate-hexane to give 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-2-chlorophenylacetonitrile (410 mg, 23%) as a colorless powder.

reactant | 1,3-biscyanomethyl-2-chlorobenzene | 5 mmol, 953 mg | C(#N)CC1=C(C(=CC=C1)CC#N)Cl | C10H7ClN2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 10 mmol, 1,078 mg | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-2-chlorophenylacetonitrile | 410 mg, 23% | FC1=C(C=C(C2=C1N=C(S2)CC=2C(=C(C=CC2)CC#N)Cl)F)F | C16H8ClF3N2S
